US04753933
A mixture composed of 4-aminobenzoic acid (30 g), sodium borohydride (32.3 g) and acetic acid (550 cc) is left stirring for 26 hours at 25° C. The reaction mixture is then concentrated to dryness at 70° C. under reduced pressure (4 kPa). The product obtained is treated with distilled water (2000 cc) and the precipitate formed is separated by filtration, washed with distilled water (20 cc) and dried in the air. The product obtained is dissolved in boiling acetonitrile (250 cc). After 2 hours' cooling at 25° C., the crystallized solid is separated by filtration, washed with acetonitrile (10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). 4-Ethylaminobenzoic acid (18 g), m.p. 174° C., is obtained.

reactant | 4-aminobenzoic acid | 30 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium borohydride | 32.3 g | [BH4-].[Na+]
reactant | acetic acid | 550 cc | C(C)(=O)O | C2H4O2
reactant | water | 2000 cc | O | H2O
solvent | acetonitrile | 250 cc | C(C)#N | C2H3N
product | 4-Ethylaminobenzoic acid | 18 g | C(C)NC1=CC=C(C(=O)O)C=C1 | C9H11NO2
